US04983211
4-(5-(Trifluoromethyl)-3-fluoro-2-pyridyloxy)benzaldehyde
To a solution of 36.6 g (0.20 mol) of 2,3-difluoro-5-(trifluoromethyl)pyridine in 150 ml of acetonitrile was added 25.6 g (0.21 mol) of p-hydroxybenzaldehyde, 29.0 g (0.21 mol) of powdered potassium carbonate and 50 mL of acetonitrile. The slurry was stirred at ambient temperature for 21 hours and then diluted with 300 mL of water. The organic layer was separated in a separatory funnel and washed twice with 150 mL portions of water followed by washing with 100 mL of a 10 percent potassium carbonate solution. The mixture was then dried over sodium sulfate and the solvent removed in vacuo leaving 48.0 g (84 percent of theoretical) of the above named compound, a light yellow oil, as the product; 1H NMR (CDCl3): 7.3-8.3 (m, 6H, Ar), 10.0 (s, 1H, CH(O).

reactant | 2,3-difluoro-5-(trifluoromethyl)pyridine | 0.20 mol, 36.6 g | FC1=NC=C(C=C1F)C(F)(F)F | C6H2F5N
reactant | p-hydroxybenzaldehyde | 0.21 mol, 25.6 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 0.21 mol, 29.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | water | 300 mL | O | H2O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-(5-(Trifluoromethyl)-3-fluoro-2-pyridyloxy)benzaldehyde | FC(C=1C=C(C(=NC1)OC1=CC=C(C=O)C=C1)F)(F)F | C13H7F4NO2
